US06462092B1
A solution of 2,2,2-trifluoro-1-[[(3-fluorophenyl)[3-(trifluoromethyl)benzoyl]amino]-methyl]ethyl 3-trifluoromethyl-benzoate (600 mg, 1.06 mmol) from EX-662 in methanol was treated with 28% ammonia solution (122 μL). The solution was stirred at room temperature for 10 h. The reaction was quenched with water and extracted with ether. The ether layer was washed with brine and water, then dried over anhydrous MgSO4. The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate in hexane (1:8) to give 255 mg (61%) of the desired N-(3-fluorophenyl)-N-(3,3,3-trifluoro-2-hydroxypropyl)-3-(trifluoromethyl)benzamide product as a white powder, 97% pure by HPLC analysis. 1H NMR (CDCl3) δ 7.56 (m, 3H), 7.32 (m 2H), 6.98 (m, 1H), 6.90 (m, 2H), 4.49 (dd, 1H), 4.34 (d, 1H), 4.26 (m, 1H), 4.01 (dd, 1H). 19F NMR (CDCl3) δ −64.7 (s, 3F), −80.3 (s, 3F), −110 (m, 1F). HRMS calcd. for C17H12F7NO2: 396.0854 [M+H]+, found: 396.0821.

reactant | 2,2,2-trifluoro-1-[[(3-fluorophenyl)[3-(trifluoromethyl)benzoyl]amino]-methyl]ethyl 3-trifluoromethyl-benzoate | 1.06 mmol, 600 mg | FC(C=1C=C(C(=O)OC(C(F)(F)F)CN(C(C2=CC(=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C2)F)C=CC1)(F)F | C25H15F10NO3
reactant | ammonia | 122 μL | N | H3N
solvent | methanol | CO | CH4O
product | N-(3-fluorophenyl)-N-(3,3,3-trifluoro-2-hydroxypropyl)-3-(trifluoromethyl)benzamide | 255 mg, 61% | FC=1C=C(C=CC1)N(C(C1=CC(=CC=C1)C(F)(F)F)=O)CC(C(F)(F)F)O | C17H12F7NO2
